US04927453
3-Azidomethyl-2-carboethoxybenzenesulfonamide
A solution of 1.64 g of 3-bromomethyl-2-carboethoxybenzenesulfonamide and 0.43 g of sodium azide in ethanol was heated to reflux for 3 hours. The resulting reaction mixture was cooled to room temperature and the ethanol was removed on the rotovap. The residue was partitioned between water and ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and concentrated to give 1.32 g of a waxy solid.

reactant | 3-bromomethyl-2-carboethoxybenzenesulfonamide | 1.64 g | BrCC=1C(=C(C=CC1)S(=O)(=O)N)C(=O)OCC | C10H12BrNO4S
reactant | sodium azide | 0.43 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-Azidomethyl-2-carboethoxybenzenesulfonamide | N(=[N+]=[N-])CC=1C(=C(C=CC1)S(=O)(=O)N)C(=O)OCC | C10H12N4O4S
